US04137313
2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-(4-methyl-2-thiazolyl)-1, 2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide was prepared analogous to Example 1 from methyl 2,5-Dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate 1,1-dioxide and 2-amino-4-methyl-thiazole with a yield of 88% of theory; M.p.: 270° C. (decomposition).

reactant | methyl 2,5-Dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate 1,1-dioxide | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)OC)O)(=O)=O | C14H14N2O5S
reactant | 2-amino-4-methyl-thiazole | NC=1SC=C(N1)C | C4H6N2S
product | 2,5-Dihydro-2,5-dimethyl-4-hydroxy-N-(4-methyl-2-thiazolyl)-1, 2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide | yield of 88% | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)NC=1SC=C(N1)C)O)(=O)=O | C17H16N4O4S2
